US06521754B2
1-Benzoyl-3-(5-methoxy-biphenyl-3-yl)-thiourea
5-Methoxy-biphenyl-3-ylamine (129 mg, 0.65 mmol) are dissolved in acetone (5 ml) and slowly treated with a solution of benzoyl isothiocyanate (0.096 ml, 0.71 mmol) in acetone (2 ml). After stirring at ambient temperature for 18 h, the solvent is removed in vacuo and the residue crystallized from hexane. The product (203 mg, 86%) is obtained as colorless crystalls. Mp 149° C.

reactant | 5-Methoxy-biphenyl-3-ylamine | 0.65 mmol, 129 mg | COC=1C=C(C=C(C1)C1=CC=CC=C1)N | C13H13NO
reactant | benzoyl isothiocyanate | 0.71 mmol, 0.096 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 1-Benzoyl-3-(5-methoxy-biphenyl-3-yl)-thiourea | 203 mg, 86% | C(C1=CC=CC=C1)(=O)NC(=S)NC=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C21H18N2O2S
